US08614239B2
Preparation of Intermediate 6,7-Difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-5-nitro-1,3-dihydro-benzoimidazol-2-one (I-9a)
6,7-Difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-1,3-dihydro-benzoimidazol-2-one (3.0 g, 7.14 mmol) was added portion wise to fuming nitric acid at −78° C. over a period of 1 minute and the resulting mixture was stirred at room temperature for 5 minutes. The reaction was monitored by TLC (50% ethyl acetate in hexane). The reaction mixture was quenched with cold water. The solid formed was collected, washed with water and dried to give the crude product. Purification by column chromatography on silica gel (10-40% ethyl acetate in hexane) afforded 1.6 g of the product (48.2% yield).

reactant | 6,7-Difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-1,3-dihydro-benzoimidazol-2-one | 7.14 mmol, 3.0 g | FC=1C=C(C2=C(N(C(N2)=O)C2=C(C=C(C=C2)I)F)C1F)OC | C14H8F3IN2O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 6,7-Difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-5-nitro-1,3-dihydro-benzoimidazol-2-one | 1.6 g, 48.2% yield | FC=1C(=C(C2=C(N(C(N2)=O)C2=C(C=C(C=C2)I)F)C1F)OC)[N+](=O)[O-] | C14H7F3IN3O4
